US04256640
EXAMPLE 10: 4-Dimethylaminomethyl-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole
To a solution of 4-aminomethyl-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole (1.8 g) in tetrahydrofuran (80 ml) are added acetic acid (2.3 ml), 37% formalin (5.6 ml) and sodium cyanoborohydride (1.35 g) successively. The mixture is stirred at room temperature for 1 hour and evaporated to remove the solvent. The residue is extracted with ether after addition of some pieces of ice and an 10% aqueous solution of sodium hydroxide. The extract is washed with water, dried and evaporated to give an oil (3 g). The oil is chromatographed on a column of basic alumina (70 g) and eluted with ethyl acetate-hexane (1:1). The eluate is evaporated to give crystals of the title compound (1.34 g) melting at 121°-122° C. Yield: 66%

reactant | 4-aminomethyl-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole | 1.8 g | NCC1CCSC=2NC3=CC=CC=C3C21 | C12H14N2S
reactant | acetic acid | 2.3 ml | C(C)(=O)O | C2H4O2
reactant | formalin | 5.6 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 1.35 g | C(#N)[BH3-].[Na+]
reactant | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 4-Dimethylaminomethyl-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole | 3 g, Yield: 66% | CN(C)CC1CCSC=2NC3=CC=CC=C3C21 | C14H18N2S
